US07205325B2
49.0 g (256 mmol) 3-Benzo[1,3]dioxol-5-yl-acrylamide, 44.4 g (350 mmol) dichloro acetone and 300 ml toluene were kept at reflux temperature for 48 h with continuous removal of water by applying a Dean-Stark trap. After removal of solvents in vacuo, the residue was treated with 600 ml of a 1:1 mixture of water/isopropanol. After filtration the precipitate was washed first with isopropanol, then with heptane. Drying at 40° C. in vacuo gave 51.2 g (76%) 2-(2-Benzo[1,3]dioxol-5-yl-vinyl)-4-chloromethyl-oxazole.

reactant | 3-Benzo[1,3]dioxol-5-yl-acrylamide | 256 mmol, 49.0 g | O1COC2=C1C=CC(=C2)C=CC(=O)N | C10H9NO3
reactant | dichloro acetone | 350 mmol, 44.4 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Benzo[1,3]dioxol-5-yl-vinyl)-4-chloromethyl-oxazole | 51.2 g, 76% | O1COC2=C1C=CC(=C2)C=CC=2OC=C(N2)CCl | C13H10ClNO3
